US06967197B2
To a solution of N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(2-furyl)-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (160 mg) in methanol (5 ml) was added 4M hydrogen chloride in ethyl acetate (5 ml) at room temperature. After being stirred for 1 hour, the mixture was concentrated in vacuo. The resulting residue was triturated with diethyl ether to afford N-hydroxy-2-[(S)-7-(5-(2-furyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide hydrochloride (75 mg) as a powder.

reactant | N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(2-furyl)-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 160 mg | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)C(=O)OC(C)(C)C)C=1SC(=CC1)C=1OC=CC1)=O | C25H34N2O8S2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-hydroxy-2-[(S)-7-(5-(2-furyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide hydrochloride | 75 mg | Cl.ONC(C[C@@]1(CCNCCS1(=O)=O)C=1SC(=CC1)C=1OC=CC1)=O | InChI=1S/C15H18N2O5S2.ClH/c18-14(17-19)10-15(5-6-16-7-9-24(15,20)21)13-4-3-12(23-13)11-2-1-8-22-11;/h1-4,8,16,19H,5-7,9-10H2,(H,17,18);1H/t15-;/m0./s1
